US06867185B2
1-(2(S)-tert-Butoxycarbonylamino-non-8-enoyl)-4(R)-hydroxy-pyrrolidine-2(S)-carboxylic acid methyl ester (4.7 g, 11.8 mmol) was dissolved in THF (80 mL), methanol (20 mL), and water (40 mL). Powdered lithium hydroxide (5.6 g, 233 mmol) was added. The light yellow slurry was stirred at rt under N2 for 16 h, and then concentrated in vacuo. The residue was partioned between ether and water. The ether phase was discarded, and the aqueous phase was treated with 1N HCl until the pH was 4. This acidic solution was extracted with EtOAc (3×). The combined EtOAc extracts were dried (MgSO4) and concentrated in vacuo to give 4.36 g (96%) of 1-(2(S)-tert-butoxycarbonylamino-8-nonenoyl)-4(R)-hydroxy-pyrrolidine-2(S)-carboxylic acid as a white solid. This acid was then dissolved in 150 mL of DMF and (1R,2S)-1-amino-2-vinylcyclopropane carboxylic acid ethyl ester hydrochloride (2.61 g, 13.6 mmol), N-methyl morpholine (2.5 mL, 22.6 mmol), HATU (5.2 g, 13.7 mmol) was added. The reaction mixture was stirred at rt under N2 for 16 h, and then concentrated in vacuo. The residue was partitioned between ethyl acetate and pH 4 buffer (biphthalate). The organic phase was washed with sat. aq. NaHCO3, dried (MgSO4), and concentrated in vacuo to give the crude product. Flash chromatography (60%-80% ethyl acetate/hexane) gave 6.0 g (98%) of 1-{[1-(2(S)-tert-Butoxycarbonylamino-non-8-enoyl)-4(R)-hydroxy-pyrrolidine-2(S)carbonyl]-(1R)-amino}-2(S)-vinylcyclopropanecarboxylic acid ethyl ester as a white solid: 1H NMR (500 MHz, CD3OD) δ 1.25 (t, J=7.2 Hz, 3H), 1.33-1.80 (m, 10H), 1.46 (s, 9H), 2.09 (m, 3H), 2.25 (m, 2H), 3.76 (m, 2H), 4.14 (m, 2H), 4.27 (dd, J=8.5, 5.2 Hz, 1H), 4.50 (m, 2H), 4.94 (d, J=10.1 Hz, 1H), 5.01 (dd, J=17.1, 1.8 Hz, 1H), 5.11 (dd, J=10.4, 1.8 Hz, 1H), 5.30 (d, J=15.6 Hz, 1H), 5.80 (m, 2H), 8.57 (s, 1H). LC-MS (Method J, retention time: 3.21 min), MS m/z 522 (M++1). Step 26iii: Preparation of (1S,4R,6S,14S,18R)-7-cis-14-tert-butoxycarbonylamino-18-hydroxy-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester

reactant | 1-(2(S)-tert-Butoxycarbonylamino-non-8-enoyl)-4(R)-hydroxy-pyrrolidine-2(S)-carboxylic acid methyl ester | 11.8 mmol, 4.7 g | COC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H](CCCCCC=C)NC(=O)OC(C)(C)C)=O | C20H34N2O6
reactant | methanol | 20 mL | CO | CH4O
reactant | water | 40 mL | O | H2O
reactant | lithium hydroxide | 233 mmol, 5.6 g | [OH-].[Li+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-(2(S)-tert-butoxycarbonylamino-8-nonenoyl)-4(R)-hydroxy-pyrrolidine-2(S)-carboxylic acid | 4.36 g, 96% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)CCCCCC=C | C19H32N2O6
